US04956465
Ethyl 7-(cyano-ethoxycarbonyl-methyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylate
8.8 g of ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylate and 5.1 g of ethyl cyanoacetate are initially introduced into 120 ml of dioxane. 1.74 g of NaH are added in portions. The mixture is then boiled for 3 hours, diluted with water and rendered acidic using HCl. It is extracted using methylene chloride. The organic phase is dried and concentrated. The residue is recrystallized from ethanol.

reactant | ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylate | 8.8 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C15H13F2NO3
reactant | ethyl cyanoacetate | 5.1 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | NaH | 1.74 g | [H-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | Ethyl 7-(cyano-ethoxycarbonyl-methyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylate | C(#N)C(C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)OCC)=O)F)C(=O)OCC | C20H19FN2O5
